US05969140
A solution of 2-hydroxyquinoxaline (2.92 g) in dimethylformamide (20 ml) is cooled with ice under nitrogen atmosphere, and thereto is added 60% sodium hydride (0.78 g). The mixture is stirred at room temperature for 15 minutes, and thereto is added copper (I) iodide (4.19 g). The mixture is stirred at 120° C. for 15 minutes, and cooled to room temperature. To the mixture is added 1-(2-bromo-4-pyridyl)-2,3-bis(hydroxymethyl)-6,7-dimethoxynaphthalene (2.02 g), and the mixture is stirred at 120° C. for five hours. After the reaction is complete, to the mixture are added ethyl acetate and aqueous ammonia, and the ethyl acetate layer is collected. The ethyl acetate layer is filtered, washed, dried, and concentrated under reduced pressure to remove the solvent. The residue is purified by silica gel column chromatography (solvent; chloroform:methanol=20:1) to give 1-[2-(2-oxo-1,2-dihydroquinoxalin-1-yl)-4-pyridyl]-2,3-bis(hydroxymethyl)-6,7-dimethoxynaphthalene (450 mg), which is listed in Table 2.

reactant | 2-hydroxyquinoxaline | 2.92 g | OC1=NC2=CC=CC=C2N=C1 | C8H6N2O
reactant | sodium hydride | 0.78 g | [H-].[Na+]
reactant | 1-(2-bromo-4-pyridyl)-2,3-bis(hydroxymethyl)-6,7-dimethoxynaphthalene | 2.02 g | BrC1=NC=CC(=C1)C1=C(C(=CC2=CC(=C(C=C12)OC)OC)CO)CO | C19H18BrNO4
reactant | ammonia | N | H3N
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
catalyst | copper (I) iodide | 4.19 g | [Cu]I
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-[2-(2-oxo-1,2-dihydroquinoxalin-1-yl)-4-pyridyl]-2,3-bis(hydroxymethyl)-6,7-dimethoxynaphthalene | 450 mg | O=C1N(C2=CC=CC=C2N=C1)C1=NC=CC(=C1)C1=C(C(=CC2=CC(=C(C=C12)OC)OC)CO)CO | C27H23N3O5
